US06881844B2
A solution of 2,2,2-trifluoro-1-(6-fluoro-1H-indol-3-yl)-ethanone (1.63 g, 7.05 mmol) in N,N-dimethylformamide (15 mL) at 25° C. was treated with potassium carbonate (2.44 g, 17.63 mmol). The resulting mixture was stirred at 25° C. for 15 min. At this time, the reaction was treated with 2-iodopropane (1.06 mL, 10.58 mmol). The reaction was heated at 65° C. for 18 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic layer was washed with a 1N aqueous hydrochloric acid solution (1×25 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 2/1 hexanes/ethyl acetate) afforded 2,2,2-trifluoro-1-(6-fluoro-1-isopropyl-1H-indol-3-yl)-ethanone (1.74 g, 90%) as a yellow solid: mp 67-69° C.; EI-HRMS m/e calcd for C13H11F4NO (M+) 273.0776, found 273.0780.

reactant | 2,2,2-trifluoro-1-(6-fluoro-1H-indol-3-yl)-ethanone | 7.05 mmol, 1.63 g | FC(C(=O)C1=CNC2=CC(=CC=C12)F)(F)F | C10H5F4NO
reactant | potassium carbonate | 17.63 mmol, 2.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 10.58 mmol, 1.06 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-1-(6-fluoro-1-isopropyl-1H-indol-3-yl)-ethanone | 1.74 g, 90% | FC(C(=O)C1=CN(C2=CC(=CC=C12)F)C(C)C)(F)F | C13H11F4NO
